// synapse.scs - CMOS excitatory synapse primitive
// Run: spectre synapse.scs -raw synapse.raw

simulator lang=spectre

// Parameters
parameters vdd_val=1.8 cpost=200f rdecay=80k

// MOSFET models (aligned with existing repo primitives)
model nch mos1 type=n vto=0.0 kp=120u
model pch mos1 type=p vto=0.0 kp=40u

// Power supply
V_VDD (vdd 0) vsource dc=vdd_val

// Presynaptic spike train
V_PRE (pre 0) vsource type=pulse val0=0 val1=vdd_val \
    delay=5n rise=100p fall=100p width=2n period=20n

// Charge-transfer device: pre spike opens path from VDD to post node
MN_DRV (post pre vdd 0) nch w=4u l=1u

// Postsynaptic potential dynamics (EPSP-like)
C_POST (post 0) capacitor c=cpost
R_DECAY (post 0) resistor r=rdecay

// Output buffer for clean rail-to-rail readout
MP1 (out_n post vdd vdd) pch w=2u l=1u
MN1 (out_n post 0 0) nch w=1u l=1u
MP2 (out out_n vdd vdd) pch w=2u l=1u
MN2 (out out_n 0 0) nch w=1u l=1u

tran_test tran stop=120n
save pre post out
